************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: OA22X4
* View Name:     schematic
* Netlisted on:  Jun  4 07:47:01 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    OA22X4
* View Name:    schematic
************************************************************************

.SUBCKT OA22X4 A0 A1 B0 B1 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I VDD:I VSS:I Y:O
Mmn3 net128 B1 net124 VSS g45n1svt m=1 l=45n w=260n
Mmn2 net128 B0 net124 VSS g45n1svt m=1 l=45n w=260n
Mmn1 net124 A1 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn0 net124 A0 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn4 Y net128 VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmp3 net128 B1 net115 VDD g45p1svt m=1 l=45n w=390n
Mmp2 net115 B0 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp1 net128 A1 net119 VDD g45p1svt m=1 l=45n w=390n
Mmp0 net119 A0 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp4 Y net128 VDD VDD g45p1svt m=1 l=45n w=1.56u
.ENDS

